data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_606544_1,[C:1]1([N:3]([O:6][H:9])[O:7][H:10])([H:11])[N:4]([C:2]([H:13])([H:14])[H:15])[C:5]([H:12])=[N:8]1>>[C:1]1([O:7][H:10])([H:11])[N:3]([O:6][H:9])[N:8]=[C:5]([H:12])[N:4]1[C:2]([H:13])([H:14])[H:15],56.24910000001961
MR_544158_0,[C:1]([C:4]([C:3]([C:2]([N:5]([H:13])[H:14])([H:15])[H:16])([O:7][H:10])[O:9][H:11])=[C:6]([H:17])[H:18])(=[O:8])[H:12]>>[C:1]([C:2]([N:5]([H:13])[H:14])([H:15])[H:16])([C:4]([C:3]([O:7][H:10])=[O:9])=[C:6]([H:17])[H:18])([O:8][H:11])[H:12],52.07622499999701
MR_184263_0,[C:1]([C:2](=[C:5]([H:13])[H:14])/[N:6]=[C:4](/[N:3]([H:7])[H:8])[H:9])([H:10])([H:11])[H:12]>>[C:1]([C:2]1=[N:6][C:4]([N:3]([H:7])[H:8])([H:9])[C:5]1([H:13])[H:14])([H:10])([H:11])[H:12],37.64309749998319
MR_41720_2,[C:1]1([C:3]([H:16])([H:17])[H:18])([H:10])[C:4]([C:5]([N:6]([H:11])[H:12])=[C:7]([H:19])[H:20])([O:8][C:2]([H:13])([H:14])[H:15])[O:9]1>>[C:1]([C:3]([H:16])([H:17])[H:18])([C:4]([C:5]([N:6]([H:11])[H:12])=[C:7]([H:19])[H:20])=[O:9])([O:8][C:2]([H:13])([H:14])[H:15])[H:10],57.066105000025686
MR_117804_0,[C:1](/[C:6](=[C:2]([N:4]([H:10])[H:11])\[C:5](=[N:7]\[N:3]([H:8])[H:9])[H:12])[H:13])([H:14])([H:15])[H:16]>>[C:1]([C:6]1([H:13])[C:2]([N:4]([H:10])[H:11])=[C:5]([H:12])[N:7]1[N:3]([H:8])[H:9])([H:14])([H:15])[H:16],46.64207499998426
MR_632683_1,[C:1](/[C:3](=[C:2]([C:6](=[C:5](/[O:8][H:10])[H:13])\[H:14])/[O:7][H:9])[N:4]([H:11])[H:12])([H:15])([H:16])[H:17]>>[C:1]([C@:3]1([N:4]([H:11])[H:12])[C:2]([O:7][H:9])=[C:6]([H:14])[C@:5]1([O:8][H:10])[H:13])([H:15])([H:16])[H:17],41.28950000001524
MR_24968_0,[C:1]1([C:5]([H:15])([H:16])[H:17])([O:6][C:4]([H:12])([H:13])[H:14])[C:2]([H:8])([H:9])[O:7][C:3]1([H:10])[H:11]>>[C:1]1([C:3]([O:6][C:4]([H:12])([H:13])[H:14])([H:10])[H:11])([C:5]([H:15])([H:16])[H:17])[C:2]([H:8])([H:9])[O:7]1,72.37020250001635
MR_395105_0,[C:1](/[C:2]([N:4]([H:11])[H:12])=[N:7]/[O:6][H:8])([O:5][N:3]([H:9])[H:10])([H:13])[H:14]>>[C:1](=[C:2]([N:4]([H:11])[H:12])[N:7]([O:5][N:3]([H:9])[H:10])[O:6][H:8])([H:13])[H:14],60.12516750000685
MR_129784_1,[C:1]([C:2]([N:3]([H:7])[H:8])=[O:6])(/[C:4](=[N:5]\[H:9])[H:12])([H:10])[H:11]>>[C:1](=[C:2]([N:3]([H:7])[H:8])[O:6]/[C:4](=[N:5]\[H:9])[H:12])([H:10])[H:11],62.50401999999326
MR_393199_0,[C:1](=[C:2]([C:5]([N:3]([H:8])[H:9])([N:4]([H:10])[H:11])[H:14])[O:6][H:7])([H:12])[H:13]>>[C:1](/[C:2](=[C:5](/[N:4]([H:10])[H:11])[H:14])[O:6][H:7])([N:3]([H:8])[H:9])([H:12])[H:13],63.29717999995253
MR_453590_0,[C:1]([C:2]([N:4]([H:12])[H:13])([O:7][H:10])[H:11])([C:3]([H:14])([H:15])[H:16])([O:5][H:8])[O:6][H:9]>>[C:1]([C:2]([N:4]([H:12])[H:13])([O:6][H:9])[H:11])([C:3]([H:14])([H:15])[H:16])([O:5][H:8])[O:7][H:10],73.31898250001075
MR_98518_0,[C:1](=[C:6]([C:4]1([N:5]([H:10])[H:11])[C:3]([C:2]([H:15])([H:16])[H:17])([O:7][H:9])[O:8]1)[H:12])([H:13])[H:14]>>[C:1]([C:2]([H:15])([H:16])[H:17])(/[C:6](=[C:4](\[C:3]([O:7][H:9])=[O:8])[N:5]([H:10])[H:11])[H:12])([H:13])[H:14],60.27325750002532
MR_486497_1,[C:1]([N:4]([C:2]([H:14])([H:15])[H:16])[O:7][H:9])(/[C:5](=[C:6](/[C:3]([H:17])([H:18])[H:19])[H:13])[O:8][H:10])([H:11])[H:12]>>[C:1](=[C:5]([C@:6]([C:3]([H:17])([H:18])[H:19])([N:4]([C:2]([H:14])([H:15])[H:16])[O:7][H:9])[H:13])[O:8][H:10])([H:11])[H:12],59.45374249998992
MR_452853_0,[C:1]([C:4]1([O:9][H:13])[N:2]([H:11])[C:3]1(/[C:5](=[N:6]/[H:12])[N:7]([H:14])[H:15])[O:8][H:10])([H:16])([H:17])[H:18]>>[C:1]([C:4]([N:2]([C:3](=[C:5]([N:6]([H:12])[H:13])[N:7]([H:14])[H:15])[O:8][H:10])[H:11])=[O:9])([H:16])([H:17])[H:18],5.583495000028051
MR_153545_1,[C@:1]1([C:2]([C:5]([H:17])([H:18])[H:19])([C:6]([H:16])([H:20])[H:21])[O:8][H:9])([C:4]([H:13])([H:14])[H:15])[C:3]([H:11])([H:12])[N:7]1[H:10]>>[C:1](\[C:3]([C:2]([C:5]([H:17])([H:18])[H:19])([C:6]([H:16])([H:20])[H:21])[O:8][H:9])([H:11])[H:12])([C:4]([H:13])([H:14])[H:15])=[N:7]/[H:10],73.13198750001916
MR_111091_1,[C:1]([C:2]([H:12])([H:13])[H:14])([C:6](=[C:5]([C:3]([H:15])([H:16])[H:19])[C:4]([H:17])([H:18])[H:20])[H:11])(/[N:7]=[N:8]/[H:10])[H:9]>>[C:1](\[C:2]([H:12])([H:13])[H:14])(=[C:6](\[C:5]([C:3]([H:15])([H:16])[H:19])([C:4]([H:17])([H:18])[H:20])/[N:7]=[N:8]\[H:10])[H:11])[H:9],39.38692000000344
MR_484066_0,[C:1]([N:2]([O:4][H:7])[H:9])([O:5][H:8])([N:6]=[C:3]([H:11])[H:12])[H:10]>>[C:1]([N:2]([N:6]=[C:3]([H:11])[H:12])[H:9])([O:4][H:7])([O:5][H:8])[H:10],70.4073824999783
MR_310105_2,[C:1]([O:2][H:7])(=[O:3])[N:4]([O:5][H:6])[H:8]>>[C:1]([O:2][H:7])([O:3][H:6])([N:4]=[O:5])[H:8],71.74521249998918
MR_39411_1,[C:1]([C:5]([C:6]([C:2]([H:15])([H:16])[H:17])[C:8](=[C:7]([C:3]([H:18])([H:19])[H:23])[C:4]([H:20])([H:21])[H:22])[H:11])[O:9][H:10])([H:12])([H:13])[H:14]>>[C:1]([C@:5]1([O:9][H:10])[C:6]([C:2]([H:15])([H:16])[H:17])=[C:8]([H:11])[C:7]1([C:3]([H:18])([H:19])[H:23])[C:4]([H:20])([H:21])[H:22])([H:12])([H:13])[H:14],40.44927749999644
MR_646908_1,[C@:1]([C:3]([C:2]([H:14])([H:15])[H:16])=[O:8])(/[C:5](=[C:4](\[O:7][H:10])[H:12])[H:13])([O:6][H:9])[H:11]>>[C:1](=[C:5](\[C@:4]([C:3]([C:2]([H:14])([H:15])[H:16])=[O:8])([O:7][H:10])[H:12])[H:13])(\[O:6][H:9])[H:11],58.9762149999828
